US06562807B2
4-((4-Cyclohexylphenylamino)methyl)benzoic acid methyl ester (2.0 g, 6.18 mmol) was suspended in sodium hydroxide (1 N, 6.18 mL) and a solution of di-tert-butyldicarbonate (1.67 g, 7.42 mmol) in THF (10 mL) was added dropwise. The reaction mixture was stirred overnight and was concentrated in vacuo to a solid residue, which was redissolved in diethyl ether (50 mL) and washed with water (25 mL) added sodium hydroxide (1.3 mL, 1 N). The aqueous phase was extracted again with diethyl ether (25 mL) at pH 11-12. The combined organic phases were washed with sodium hydrogen sulphate (30 mL, 10%) and water (3×20 mL), dried with magnesium sulphate and concentrated in vacuo. Crystallisation from ethyl acetate and n-heptane afforded 1.98 g of 4-{[tert-butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}-benzoic acid methyl ester.

reactant | 4-((4-Cyclohexylphenylamino)methyl)benzoic acid methyl ester | 6.18 mmol, 2.0 g | COC(C1=CC=C(C=C1)CNC1=CC=C(C=C1)C1CCCCC1)=O | C21H25NO2
reactant | di-tert-butyldicarbonate | 7.42 mmol, 1.67 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | 1 N, 6.18 mL | [OH-].[Na+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4-{[tert-butoxycarbonyl-(4-cyclohexylphenyl)amino]methyl}-benzoic acid methyl ester | 1.98 g | COC(C1=CC=C(C=C1)CN(C1=CC=C(C=C1)C1CCCCC1)C(=O)OC(C)(C)C)=O | C26H33NO4
